US07276526B2
2-{1-[4-(2-Chloro-4-methoxy-5-methyl-phenyl)-5-methyl-thiazol-2-yl]-cyclopropyl}-phenol
2-[1-(2-Benzyloxy-phenyl)-cyclopropyl)-4-(2-chloro-4-methoxy-5-methyl-phenyl)-5-methyl-thiazole (0.95 g, 2 mmol) was dissolved in dry ethanol (100 mL) 30% palladium on carbon (0.39 g, 1.1 mmol) and 1,4-cyclohexadiene (20 mL, 210 mmol) was added. The reaction mixture was stirred for 2 d at room temperature. The mixture was filtered through Celite concentrated, and purified by chromatography on silica using an ethyl acetate/hexane gradient, the title compound was obtained as a white powder. Yield: 0.41 g (53%). [MH]+ =386.2, 388.2.

reactant | 2-[1-(2-Benzyloxy-phenyl)-cyclopropyl)-4-(2-chloro-4-methoxy-5-methyl-phenyl)-5-methyl-thiazole | 2 mmol, 0.95 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1(CC1)C=1SC(=C(N1)C1=C(C=C(C(=C1)C)OC)Cl)C | C28H26ClNO2S
reactant | ethanol | 1.1 mmol, 100 mL, 0.39 g | C(C)O | C2H6O
reactant | 1,4-cyclohexadiene | 210 mmol, 20 mL | C1=CCC=CC1 | C6H8
product | 2-{1-[4-(2-Chloro-4-methoxy-5-methyl-phenyl)-5-methyl-thiazol-2-yl]-cyclopropyl}-phenol | ClC1=C(C=C(C(=C1)OC)C)C=1N=C(SC1C)C1(CC1)C1=C(C=CC=C1)O | C21H20ClNO2S
